US07151112B1
Synthesis of [5-(4-Azido-2-Hydroxy-5-Iodobenzoylamino)Pyridin-2-Yloxy]Acetic Acid Methyl Ester
To a suspension of (5-(4-azido-2-hydroxybenzoylamino)pyridin-2-yloxy)acetic acid methyl ester (22 mg, 0.064 mmol) in DMF (1 mL) was added sodium iodide (11 mg, 0.07 mmol) and chloramine T (51 mg, 0.22 mol). The reaction mixture turned homogeneous and after 10 minutes, the mixture was poured into water and was extracted with ethyl acetate (3×25 mL). The combined extracts were washed with water and brine and dried over magnesium sulfate. Filtration and concentration in vacuo gave a residue that was purified via radial chromatography (1 mm plate, 10% ethyl acetate/hexanes as eluant). This gave 7.8 mg (26%) of (5-(4-azido-2-hydroxy-5-iodo-benzoylamino)-pyridin-2-yloxy)-acetic acid methyl ester as an off-white solid: 1H NMR (300 MHz, acetone-d6) δ 9.92 (bs, 1H) 8.40 (m, 1H), 8.33 (s, 1H), 8.05 (m, 1H), 6.92 (m, 1H), 6.87 (s, 1H), 4.90 (s, 2H), 3.69 (s, 3H); MS (EI) m/z 467.97 (M−H)−.

reactant | (5-(4-azido-2-hydroxybenzoylamino)pyridin-2-yloxy)acetic acid methyl ester | 0.064 mmol, 22 mg | COC(COC1=NC=C(C=C1)NC(C1=C(C=C(C=C1)N=[N+]=[N-])O)=O)=O | C15H13N5O5
reactant | sodium iodide | 0.07 mmol, 11 mg | [I-].[Na+]
reactant | chloramine T | 0.22 mol, 51 mg | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | [5-(4-Azido-2-Hydroxy-5-Iodobenzoylamino)Pyridin-2-Yloxy]Acetic Acid Methyl Ester | COC(COC1=NC=C(C=C1)NC(C1=C(C=C(C(=C1)I)N=[N+]=[N-])O)=O)=O | C15H12IN5O5
